US07709481B2
5.30 g 2-Cyclohex-1-enyl-4-methoxymethyl-oxazole-5-carboxylic acid methyl ester were dissolved in 40 ml methanol. 500 mg palladium on charcoal (10%) were added and the reaction mixture was stirred under an atmosphere of hydrogen overnight. The catalyst was filtered off through a pad of celite, the filtrate was evaporated in vacuo to obtain 4.70 g 2-Cyclohexyl-4-methoxymethyl-oxazole-5-carboxylic acid methyl ester as an oil.

reactant | 2-Cyclohex-1-enyl-4-methoxymethyl-oxazole-5-carboxylic acid methyl ester | 5.30 g | COC(=O)C1=C(N=C(O1)C1=CCCCC1)COC | C13H17NO4
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | 2-Cyclohexyl-4-methoxymethyl-oxazole-5-carboxylic acid methyl ester | 4.70 g | COC(=O)C1=C(N=C(O1)C1CCCCC1)COC | C13H19NO4
